US08957078B2
Step 1: allyl 3-amino-4,4,4-trichloro-2-cyanobut-2-enoate 2
To a solution of KOAc (589.4 g, 6.006 mol) in isopropanol (3 L) was added allyl cyanoacetate (429.4 g, 403.2 mL, 3.432 mol) and the reaction mixture was cooled to 5° C. Trichloroacetonitrile (495.5 g, 3.432 mol) was added in 50 mL portions, maintaining temperature below 15° C. The reaction mixture was then allowed to warm to 20° C. and stirred for 3 h. Water (˜4 L) was added to dissolve the inorganic materials and precipitate out the desired product. The mixture was stirred for 20 minutes and the solid was isolated by filtration under vacuum. This solid was filtered, washed with water (2×0.5 L) and dried in a vacuum oven overnight at 40° C. to afford allyl 3-amino-4,4,4-trichloro-2-cyanobut-2-enoate 2 as an off-white powder (787 g, 85%)

reactant | KOAc | 6.006 mol, 589.4 g | CC(=O)[O-].[K+]
reactant | allyl cyanoacetate | 3.432 mol, 403.2 mL, 429.4 g | C(#N)CC(=O)OCC=C | C6H7NO2
reactant | Trichloroacetonitrile | 3.432 mol, 495.5 g | ClC(C#N)(Cl)Cl | C2Cl3N
reactant | Water | ˜4 L | O | H2O
solvent | isopropanol | 3 L | C(C)(C)O | C3H8O
product | allyl 3-amino-4,4,4-trichloro-2-cyanobut-2-enoate | NC(=C(C(=O)OCC=C)C#N)C(Cl)(Cl)Cl | C8H7Cl3N2O2
